US07737149B2
4-Benzamido-N-[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide
5-[2-(3-Methoxyphenyl)ethyl]-2-tert-butyl-pyrazol-3-amine (0.2 g, 0.73 mmol) was dissolved in toluene (10 ml) and to this was added methyl 4-benzamidobenzoate (200 mg, 0.80 mmol) and AlMe3 (0.93 ml, 1.8 mmol). The reaction was stirred overnight. The reaction was diluted with DCM (15 ml) and quenched with damp sodium sulfite. The reaction mixture was stirred for 20 mins before being filtered and the solvent removed in vacuo to yield a yellow gum. This gum was dissolved in formic acid (12 ml) and heated at 82° C. overnight. The reaction was evaporated to dryness and the resulting product was passed through a SCX column, eluting initially with methanol followed by 2N ammonia/methanol. After removal of the solvent, a yellow solid was obtained which was triturated with hot acetonitrile to afford a white solid. The solid was filtered and dried (66 mg, 21%); 1H NMR (400.132 MHz, DMSO) δ 2.91 (s, 4H), 3.74 (s, 3H), 6.46 (brs, 1H), 6.77 (d, 1H), 6.83 (s, 2H), 7.20 (t, 1H), 7.64-7.54 (m, 3H), 7.90 (d, 2H), 8.02-7.97 (m, 4H), 10.46 (s, 1H), 10.55 (s, 1H), 12.15 (s, 1H); MS: m/z 441 (MH+).

reactant | 5-[2-(3-Methoxyphenyl)ethyl]-2-tert-butyl-pyrazol-3-amine | 0.73 mmol, 0.2 g | COC=1C=C(C=CC1)CCC=1C=C(N(N1)C(C)(C)C)N | C16H23N3O
reactant | methyl 4-benzamidobenzoate | 0.80 mmol, 200 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)OC)C=C1 | C15H13NO3
reactant | AlMe3 | 1.8 mmol, 0.93 ml | C[Al](C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | formic acid | 12 ml | C(=O)O | CH2O2
product | 4-Benzamido-N-[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)NC=2NN=C(C2)CCC2=CC(=CC=C2)OC)C=C1 | C26H24N4O3
